US06355683B1
3-Cyanobenzaldehyde (3.0 g, 23.0 mmol) and 3-cyanoacetophenone (3.34 g, 23.0 mmol) in glacial acetic acid (5 mL) and concentrated H2SO4 (3.66 mL, 69 mmol) was stirred at room temperature for 72 hours. Water (200 mL) was added and the reaction filtered. The precipitate was washed with water (2×200 mL) and dried in vacuo to give 3,3′-dicyanochalcone as an off-white solid. MS (APCI) m/z 258 (M+−1, 100%). 13C NMR (50 MHz, d6-DMSO): δ111.7, 117.8, 118.0, 123.0, 129.7, 131.6, 132.1, 132.4, 133.3, 133.5, 135.3, 136.1, 137.4, 142.1, 187.3.

reactant | 3-Cyanobenzaldehyde | 23.0 mmol, 3.0 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | 3-cyanoacetophenone | 23.0 mmol, 3.34 g | CC(=O)C1=CC=CC(=C1)C#N | C9H7NO
reactant | H2SO4 | 69 mmol, 3.66 mL | OS(=O)(=O)O | H2O4S
reactant | Water | 200 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3,3′-dicyanochalcone | C(#N)C=1C=C(C=CC1)C=CC(=O)C1=CC(=CC=C1)C#N | C17H10N2O
